US05891909
a) 3-(5-Bromo-2-methoxyphenylsulfonyloxy)-5-methylphenol
To a solution of 1.25 g (8.76 mmol) of orcinol monohydrate and 2.50 g (8.76 mmol) of 5-bromo-2-methoxybenzenesulfonyl chloride in 25 mL of diethyl ether was added 25 mL of saturated aqueous NaHCO3 and the biphasic mixture stirred vigorously at ambient temperature for 3 days. The layers were separated and the aqueous layer extracted with 2×30 mL of ethyl acetate. The combined organic layers were washed with 50 mL of brine, dried (Na2SO4) and concentrated to 1.92 g (59%) of the desired product as a pale yellow crystalline solid: 1H-NMR (300 MHz; CDCl3) δ 7.93 (d, 1 H, J=2.5 Hz), 7.69 (dd, 1 H, J=8.9, 2.5 Hz), 6.98 (d, 1 H, J=8.9 Hz), 6.54 (br s, 1 H), 6.51 (br s, 1 H), 6.41 (t, 1 H, J=2.2 Hz), 3.98 (s, 3 H) and 2.24 (s, 3 H).

reactant | orcinol monohydrate | 8.76 mmol, 1.25 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 5-bromo-2-methoxybenzenesulfonyl chloride | 8.76 mmol, 2.50 g | BrC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6BrClO3S
reactant | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 3-(5-Bromo-2-methoxyphenylsulfonyloxy)-5-methylphenol | BrC=1C=CC(=C(C1)S(=O)(=O)OC=1C=C(C=C(C1)C)O)OC | C14H13BrO5S
